Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ male with the past medical
history of Crohn's disease on ___ who presents with dyspnea
and was found to be positive with Influenza B.  He states that 
on
___ ___, he had dyspnea that was acute, associated with cough,
moderate in severity, and worse with exertion.  With it, he
developed temperature of 102 and had fatigue and malaise. He has
had sick contacts as he teaches ___ in high school.  He went
to the ER ___ where he was diagnosed with the flu, given
Tamiflu, Toradol, IV fluids, Tylenol and benzonatate and was
discharged home. Although the initial X-ray may have commented 
on
a right-sided opacity, the ER MD thought that this was an
over-read and did not think he warranted ABX. When he went home,
he developed another fever so returned to the ER, since he was
told to be very concerned with a fever while he is taking
immunosuppressing meds for his Crohn's. 

 
Past Medical History:
Crohn's disease Dx ___ years ago, currently on Humira
PSH: s/p tonsillectomy 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Clear to auscultation, no wheezing or stridor. Breathing 
is non-labored
GI: Abdomen soft, non-distended
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric
PSYCH: normal thought content, logical thought process,
appropriate affect
 
Pertinent Results:
___ 10:25AM BLOOD WBC-3.2* RBC-5.19 Hgb-16.0 Hct-46.5 
MCV-90 MCH-30.8 MCHC-34.4 RDW-12.2 RDWSD-40.2 Plt ___
 
Brief Hospital Course:
#Sepsis secondary to Influenza B (fever, tachycardia): 
___ male with the past medical history of Crohn's 
diseaseon ___ who presents with dyspnea and was found to be 
positive for Influenza B. Tamiflu was started on ___ patient 
counseled that these symptoms can persist for a week, and that 
recurrent fevers are an
associated aspect and not a sign that there is a concurrent
underlying infection. Symptomatic treatment with Tylenol 1g q6 
standing, Ibuprofen
400mg PO TID with meals, Tessalon PRN, Cepacol lozenges PRN,
Zofran PRN, nebs for influenza-induced bronchospasm. He should 
continue to take Tylenol and Ibuprofen standing as an outpatient 
until all of his symptoms resolve.  There was a subtle 
infiltrate on CXR, so continued his Levofloxacin 750mg for 4 
more days (missed dose on ___ after being in the ER), for a 
total of 5
days of therapy. This may be just influenza, but as he is on 
infliximab he is at increased risk for superinfection.

#Crohn's disease - due for Humira on ___, will defer the timing
of this to his outpatient GI MD

#Thrombocytopenia - in the setting of viral illness, though no
previous values are available for comparison. No signs of
bleeding; he can follow-up with his PCP in ___ month for this. 
Plts remained stable 

This patient was seen and examined on the day of discharge. His 
symptoms had improved, he was not hypoxic, and was ambulating 
without difficulty. He felt safe to return home.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Humira (adalimumab) 40 mg/0.8 mL subcutaneous ASDIR 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN sore throat  
3.  Ibuprofen 400 mg PO TID W/MEALS  
4.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0 
5.  OSELTAMivir 75 mg PO BID 
RX *oseltamivir 75 mg 1 capsule(s) by mouth Twice daily Disp #*3 
Capsule Refills:*0 
6.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous ASDIR 
Talk your GI doctor about rescheduling this  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ for influenza. We treated you with 
oseltamivir for this. We also treated you with levofloxacin for 
the possibility of a superimposed bacterial infection. Your 
vitals and labs look good, and the improvement in your symptoms 
suggests this infection is getting better.

Instructions:
- Take Tamfilu 75 mg twice daily through ___
- Take levofloxacin 750 mg daily through ___
- Take acetaminophen, cepacol, and ibuprofen as needed for 
symptoms
 
Followup Instructions:
___